US06949552B2
1.25 g of 1-Ethoxycarbonyl-4-[2-(4-fluorophenyl)-2-(4-methylpiperazino)ethyl]piperazine was dissolved in 2 ml of ethanol, and 1.3 g of potassium hydroxide was added, followed by reflux with heating for an hour. The reaction solution was cooled to room temperature and, after addition of 2 ml of water, extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure to give 1.0 g of a crude 1-[2-(4-fluorophenyl)-2-(4-methyl-piperazino)ethyl]piperazine.

reactant | 1-Ethoxycarbonyl-4-[2-(4-fluorophenyl)-2-(4-methylpiperazino)ethyl]piperazine | 1.25 g | C(C)OC(=O)N1CCN(CC1)CC(N1CCN(CC1)C)C1=CC=C(C=C1)F | C20H31FN4O2
reactant | potassium hydroxide | 1.3 g | [OH-].[K+]
reactant | water | 2 ml | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 1-[2-(4-fluorophenyl)-2-(4-methyl-piperazino)ethyl]piperazine | 1.0 g | FC1=CC=C(C=C1)C(CN1CCNCC1)N1CCN(CC1)C | C17H27FN4
